US08222416B2
A mixture of 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-2-fluoro-benzoic acid methyl ester (360 mg, 0.71 mmol) and tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 3 ml) was stirred at 25° C. for 16 h. The reaction was quenched with a saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with ethyl acetate (2×100 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester (250 mg, 96%) as a white solid which was used in the next step without further purification.

reactant | 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-2-fluoro-benzoic acid methyl ester | 0.71 mmol, 360 mg | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1)F)=O | C28H25FN2O4S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 3 ml | O1CCCC1 | C4H8O
product | 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester | 250 mg, 96% | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=CC2)N1)F)=O | C22H21FN2O2
